US08624040B2
Step 1: ethyl 3-methyl-5-(1-methyl-1H-pyrrole-2-carbonyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate
A solution of N-methylpyrrole-2-carboxylic acid (12.5 mg, 0.1 mmol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (0.048 g, 0.11 mmol) and N,N-diisopropylethylamine (52.2 μL, 0.3 mmol) in N,N-dimethylformamide (1 mL, 12.9 mmol) was stirred at room temperature for 15 minutes. A solution of ethyl 3-methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate (22.5 mg, 0.1 mmol) in N,N-dimethylformamide (1 mL) was then added and the reaction was further stirred at room temperature overnight. The solution was evaporated to dryness and the residue obtained was partitioned between DCM (2 mL) and half-saturated aqueous sodium bicarbonate solution (2 mL). Upon separation of the layers, the aqueous layer was extracted with additional DCM (2 mL) and the combined organic layers were concentrated to dryness.

reactant | N-methylpyrrole-2-carboxylic acid | 0.1 mmol, 12.5 mg | CN1C(=CC=C1)C(=O)O | C6H7NO2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.11 mmol, 0.048 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.3 mmol, 52.2 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl 3-methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate | 0.1 mmol, 22.5 mg | CC1=C(SC2=C1CNCC2)C(=O)OCC | C11H15NO2S
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 12.9 mmol, 1 mL | CN(C=O)C | C3H7NO
product | ethyl 3-methyl-5-(1-methyl-1H-pyrrole-2-carbonyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate | CC1=C(SC2=C1CN(CC2)C(=O)C=2N(C=CC2)C)C(=O)OCC | C17H20N2O3S
